US04833143
A solution of 2-bromothiophene (32.9 g) in dry ether (50 ml) was added dropwise to a stirred mixture of magnesium turnings (4.85 g) and ether (50 ml) under nitrogen. When all the magnesium had dissolved a solution of 1-(3,4-dichlorophenyl)cyclobutanecarbonitrile (30.6 g) in dry ether (200 ml) was added and the mixture stirred at 20° C. for one hour and then heated under reflux for one hour. A solid formed which is believed to be 1-(3,4-dichlorophenyl)cyclobutyl](thien-2-yl)methaniminylmagnesium bromide and was collected by filtration. The solid was dissolved in ethanol (200 ml) and a solution of sodium borohydride (10 g) in ethanol (500 ml) added and the mixture heated under reflux for four hours. The mixture was cooled and water (200 ml) and then 5N hydrochloric acid added. The ethanol was removed by evaporation and the aqueous solution basified by the addition of 5N sodium hydroxide solution. The aqueous layer was extracted with ether and the extract dried. Hydrogen chloride gas was passed into the ethereal solution to give [1-(3,4-dichlorophenyl)cyclobutyl](thien-2-yl)methylamine hydrochloride (m.p. 238°-242° C.).

reactant | 2-bromothiophene | 32.9 g | BrC=1SC=CC1 | C4H3BrS
reactant | magnesium | 4.85 g | [Mg] | Mg
reactant | 1-(3,4-dichlorophenyl)cyclobutanecarbonitrile | 30.6 g | ClC=1C=C(C=CC1Cl)C1(CCC1)C#N | C11H9Cl2N
reactant | (thien-2-yl)methaniminylmagnesium bromide | S1C(=CC=C1)C=N[Mg]Br
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | [1-(3,4-dichlorophenyl)cyclobutyl](thien-2-yl)methylamine hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C1(CCC1)NCC=1SC=CC1 | InChI=1S/C15H15Cl2NS.ClH/c16-13-5-4-11(9-14(13)17)15(6-2-7-15)18-10-12-3-1-8-19-12;/h1,3-5,8-9,18H,2,6-7,10H2;1H
